US06596887B2
At 50° C., 3.1 g (20 mmol) of 3-methyl-2-naphthylamline, 6.5 g (40 mmol) of FeCl3 and 80 mL of H2O were stirred for 2 hours. To the reaction mixture was added 2 mL of concentrated hydrochloric acid at room temperature. The mixture was stirred at room temperature for 10 minutes. To the reaction mixture were added 20 mL of methylene chloride and 20 mL of a saturated aqueous ammonia solution. After vigorous stirring at room temperature, the reaction mixture was filtered over Celite and the filtrate was washed with methylene chloride. The organic layer was concentrated by distilling off the solvent under reduced pressure. The residue was purified by Florisil (trade name) and then by chromatography on a silica gel column (hexane/ethyl acetate=4/1 to 3/1). By recrystallization from hexane-chloroform, 0.76 g (yield: 24%) of 3,3′-dimethyl-1,1′-binaphthyl-2,2′-diamine was obtained.

reactant | 3-methyl-2-naphthylamline | 20 mmol, 3.1 g | CC=1C(=CC2=CC=CC=C2C1)NC1=CC=CC=C1 | C17H15N
reactant | H2O | 80 mL | O | H2O
reactant | hydrochloric acid | 2 mL | Cl | ClH
reactant | ammonia | 20 mL | N | H3N
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 3,3′-dimethyl-1,1′-binaphthyl-2,2′-diamine | 0.76 g, yield: 24% | CC1=C(C(=C2C=CC=CC2=C1)C=1C(=C(C=C2C=CC=CC12)C)N)N | C22H20N2
